US09278951B2
Synthesis of 1-(benzo[1,4]dioxan-2-ylmethyl)-4,5-dichloro-3-(napthalen-2-ylmethyl)imidazolium bromide
1-(Benzo[1,4]dioxan-2-ylmethyl)-4,5-dichloroimidazole (0.28 g, 1 mmol) was combined with acetonitrile (2 mL) and heated until all solid dissolved. 2-(Bromomethyl)naphthalene (0.22 g, 1 mmol) was added and the solution was refluxed for 3 h, during which time a white precipitate formed. The precipitate was collected by filtration and washed with diethyl ether to yield a white solid (0.29 g, 57% yield). 1H NMR (300 MHz, DMSO-d6) 9.65 (1H, s, NCHN), 8.00 (4H, m, Ar), 7.57 (3H, m, Ar), 6.87 (4H, m, Ar), 5.72 (2H, s, CH2), 4.11-4.88 (5H, m, CH2CHCH2O).

reactant | 1-(Benzo[1,4]dioxan-2-ylmethyl)-4,5-dichloroimidazole | 1 mmol, 0.28 g | O1C(COC2=C1C=CC=C2)CN2C=NC(=C2Cl)Cl | C12H10Cl2N2O2
reactant | 2-(Bromomethyl)naphthalene | 1 mmol, 0.22 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-(benzo[1,4]dioxan-2-ylmethyl)-4,5-dichloro-3-(napthalen-2-ylmethyl)imidazolium bromide | 0.29 g, 57% yield | [Br-].O1C(COC2=C1C=CC=C2)C[N+]2=CN(C(=C2Cl)Cl)CC2=CC1=CC=CC=C1C=C2 | InChI=1S/C23H19Cl2N2O2.BrH/c24-22-23(25)27(13-19-14-28-20-7-3-4-8-21(20)29-19)15-26(22)12-16-9-10-17-5-1-2-6-18(17)11-16;/h1-11,15,19H,12-14H2;1H/q+1;/p-1
